US04102887
3-(4-bromophenyl)-3-(3-pyridyl)allylbromide
A mixture of 7.0 g (0.024 mol) of 1-(4-bromophenyl)-1-(3-pyridyl)-propene and 4.6 g (0.024 mol) of N-bromosuccinimide in 600 ml of carbontetrachloride was heated with stirring to 80° C. Then 0.5 g. of α,α-azabisbutyronitrile was added as radical initiator and the mixture was refluxed for 2 hours. After cooling to ambient temperature, the reaction mixture was filtered and the filtrate was evaporated in vacuo to 100 ml. NMR on the residual solution indicated a 1:1-mixture of the E- and Z-3-(4-bromophenyl)-3-(3-pyridyl)allylbromides. This solution was used directly in the preparation of the end product without further purification.

reactant | 1-(4-bromophenyl)-1-(3-pyridyl)-propene | 0.024 mol, 7.0 g | BrC1=CC=C(C=C1)C(=CC)C=1C=NC=CC1 | C14H12BrN
reactant | N-bromosuccinimide | 0.024 mol, 4.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbontetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(4-bromophenyl)-3-(3-pyridyl)allylbromide | BrC1=CC=C(C=C1)C(=CCBr)C=1C=NC=CC1 | C14H11Br2N
